US08372864B2
In a three-necked flask, 500 mg of methyl 6-amino-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate are dissolved in 5 cm3 of dichloromethane. 150 μl of pyridine are added and the reaction mixture is cooled to a temperature in the vicinity of 0° C. 188 mg of methanesulfonyl chloride are added over 15 min, then the mixture is left to return to a temperature in the vicinity of 25° C. and stirred for 12 h. 5 cm3 of distilled water and 20 cm3 of a saturated solution of sodium chloride are added successively and left stirring for 1 h at a temperature in the vicinity of 25° C. 10 cm3 of dichloromethane are added. The organic phase is separated, dried then concentrated using a rotary evaporator under reduced pressure (5 kPa). The residual yellow solid is triturated with 15 cm3 of hot diisopropyl ether. The mixture is left to return to a temperature in the vicinity of 25° C. The residual solid is filtered, then rinsed with 2×5 cm3 of diisopropyl ether. 574 mg of methyl 6-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate are obtained in the form of a beige solid.

reactant | pyridine | 150 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 188 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 5 cm3 | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | methyl 6-amino-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate | 500 mg | NC=1C=C(C=2CN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C17H24N2O3
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | methyl 6-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate | 574 mg | CS(=O)(=O)NC=1C=C(C=2CN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H26N2O5S
